US06278013B1
8-Cyano-1-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride
5.00 g (12.6 mmol) of 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid are stirred in 95 ml of 4 N hydrochloric acid/dioxane (1:1) at 60° C. for two hours. The reaction mixture is concentrated in vacuo and the residue is recrystallized from ethanol.

reactant | 8-cyano-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]-nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 12.6 mmol, 5.00 g | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | C21H21FN4O3
reactant | hydrochloric acid dioxane | 4 N, 95 ml | Cl.O1CCOCC1
product | 8-Cyano-1-1-cyclopropyl-7-((1S,6S)-2,8-diazabicyclo[4.3.0]nonan-8-yl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride | Cl.C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2CCCN[C@@H]2C1 | InChI=1S/C21H21FN4O3.ClH/c22-16-6-13-18(26(12-3-4-12)9-15(20(13)27)21(28)29)14(7-23)19(16)25-8-11-2-1-5-24-17(11)10-25;/h6,9,11-12,17,24H,1-5,8,10H2,(H,28,29);1H/t11-,17+;/m0./s1
